US06953790B2
Step A: Benzyl 6-[(tert-butoxycarbonyl)amino]-5-oxo-1,4-diazepane-1-carboxylate
Triethylamine (0.56 mL, 3.99 mmol) was added to a solution of benzyl 6-amino-5-oxo-1,4-diazepane-1-carboxylate (1.05 g, 3.99 mmol) and di-tert-butyl dicarbonate (1.31 g, 6.00 mmol) in dichloromethane (30 mL). After 18 h, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (1.35 g). MS 364 (M+1).

reactant | Triethylamine | 3.99 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl 6-amino-5-oxo-1,4-diazepane-1-carboxylate | 3.99 mmol, 1.05 g | NC1C(NCCN(C1)C(=O)OCC1=CC=CC=C1)=O | C13H17N3O3
reactant | di-tert-butyl dicarbonate | 6.00 mmol, 1.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Benzyl 6-[(tert-butoxycarbonyl)amino]-5-oxo-1,4-diazepane-1-carboxylate | 1.35 g | C(C)(C)(C)OC(=O)NC1C(NCCN(C1)C(=O)OCC1=CC=CC=C1)=O | C18H25N3O5
